US06951881B2
Preparation of 5-Chloro-2-(2,4-dichlorophenyl)-1-methyl-1H-indole
A mixture of 5-chloro-2-(2,4-dichlorophenyl)-1H-indole (160 mg, 0.54 mmol) and methyl iodide (124 μL, 2.0 mmol) in tetrahydrofuran is treated with NaH (60% dispersion in mineral oil, 160 mg, 4.0 mmol), shaken at room temperature for 16 h, quenched with water and extracted with ethyl acetate. The extracts are combined and concentrated in vacuo to afford the title product which is used as is in Example 128.

reactant | 5-chloro-2-(2,4-dichlorophenyl)-1H-indole | 0.54 mmol, 160 mg | ClC=1C=C2C=C(NC2=CC1)C1=C(C=C(C=C1)Cl)Cl | C14H8Cl3N
reactant | methyl iodide | 2.0 mmol, 124 μL | CI | CH3I
reactant | NaH | 4.0 mmol, 160 mg | [H-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-Chloro-2-(2,4-dichlorophenyl)-1-methyl-1H-indole | ClC=1C=C2C=C(N(C2=CC1)C)C1=C(C=C(C=C1)Cl)Cl | C15H10Cl3N
